US03952017
Utilizing 1.13 g. of Gilman alloy, 5 ml. of absolute ether, 5.2 g. of dimethylaminoproyl chloride and 5 ml. of absolute tetrahydrofuran, in a similar manner, is obtained the corresponding Grignard compound. After cooling to 0°C., there is added dropwise a solution containing 7.2 g. of 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one in 40 ml. of absolute tetrahydrofuran. Subsequently, the mixture is heated for 3 hours at reflux, cooled to about 0°C., hydrolyzed with 4 ml. of water, filtered, and then washed with ether. The ethereal solution is dried over sodium sulfate, filtered and concentrated under reduced pressure, whereby 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene is obtained as a yellow oil which is crystallized from 50 ml. of high-boiling petroleum ether and has a melting point of 122°-124°C.

reactant | ether | CCOCC | C4H10O
reactant | dimethylaminoproyl chloride | CN(C)CCCCl | C5H12ClN
reactant | 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | CC1(OCCO1)C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C19H18O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | CC1(OCCO1)C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)(O)CCCN(C)C | C24H31NO3
